US06297239B1
Step D: Preparation of 2-(2,4-Dichloro-phenylsulfanyl)-4-[5-(2-morpholin-4-yl-ethyl)-imidazol-1-ylmethyl]-benzonitrile
Following the procedure described in Example 11, Step A, the title compound was prepared using 2-fluoro-4-[5-(2-morpholin-4-yl-ethyl)-imidazol-1-ylmethyl]-benzonitrile (0.15 g, 0.477 mmol) and 2,4-dichlorothiophenol (0.086 g, 0.477 mmol).

reactant | 2-fluoro-4-[5-(2-morpholin-4-yl-ethyl)-imidazol-1-ylmethyl]-benzonitrile | 0.477 mmol, 0.15 g | FC1=C(C#N)C=CC(=C1)CN1C=NC=C1CCN1CCOCC1 | C17H19FN4O
reactant | 2,4-dichlorothiophenol | 0.477 mmol, 0.086 g | ClC1=C(C=CC(=C1)Cl)S | C6H4Cl2S
product | 2-(2,4-Dichloro-phenylsulfanyl)-4-[5-(2-morpholin-4-yl-ethyl)-imidazol-1-ylmethyl]-benzonitrile | ClC1=C(C=CC(=C1)Cl)SC1=C(C#N)C=CC(=C1)CN1C=NC=C1CCN1CCOCC1 | C23H22Cl2N4OS
